US05602277
EXAMPLE 38 3-Amino-4-(2-methylpropionylamino)benzoic acid.
A sample of ethyl 3-amino-4-(2-methylpropionylamino)benzoate (2.30 g, 0.0092 mol) was suspended in 1N NaOH (13.80 mL, 0.0138 mol). After stirring for 24 h at room temperature, the reaction was then heated at 50° C. for 6 h. The reaction was filtered and the filtrate acidified with 1N HCl forming an orange precipitate. The solid was collected by filtration and thin-layer chromatographic analysis (SiO2, 9:1 ethyl acetate:methanol) indicated formation of a new lower-running spot (Rf =0.1). This material was recrystallized from N-butanol. The residue was collected by filtration and then suspended in ether. The product was filtered and dried in vacuo at acetone reflux to give 0.12 g (5%) of the title compound as a beige solid, mp 159°-160° C.

reactant | ethyl 3-amino-4-(2-methylpropionylamino)benzoate | 0.0092 mol, 2.30 g | NC=1C=C(C(=O)OCC)C=CC1NC(C(C)C)=O | C13H18N2O3
reactant | NaOH | 0.0138 mol, 1N, 13.80 mL | [OH-].[Na+]
product | 3-Amino-4-(2-methylpropionylamino)benzoic acid | 0.12 g, 5% | NC=1C=C(C(=O)O)C=CC1NC(C(C)C)=O | C11H14N2O3
